US08975406B2
A suspension of 3-fluoro-5-bromopyridine carboxylic acid hydrochloride (1.83 g, 6.5 mmol), N—O-dimethyl hydroxylamine hydrochloride (824 mg, 8.45 mmol), Et3N (2.3 mL, 16.25 mmol) and HATU (3.2 g, 8.45 mmol) in dry DMF (30 mL) was stirred at room temperature under N2 for 16 h. Further HATU (900 mg, 2.4 mmol) was added and the reaction stirred for a further 6 h. The solvent was removed in vacuo and the crude partitioned between saturated NaHCO3 (aq) and EtOAc. The aqueous was extracted with additional EtOAc (×3) and the combined organics washed with brine dried (MgSO4) and concentrated in vacuo. Purification by column chromatography (gradient: 20%-80% EtOAc in petroleum ether 40-60:EtOAc) yielded 3-fluoro-5-bromopyridine carboxylic acid methoxymethylamide as a yellow solid.

reactant | 3-fluoro-5-bromopyridine carboxylic acid hydrochloride | 6.5 mmol, 1.83 g | Cl.FC=1C(=NC=C(C1)Br)C(=O)O
reactant | Et3N | 16.25 mmol, 2.3 mL | CCN(CC)CC | C6H15N
reactant | HATU | 8.45 mmol, 3.2 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HATU | 2.4 mmol, 900 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 3-fluoro-5-bromopyridine carboxylic acid methoxymethylamide | COCNC(=O)C1=NC=C(C=C1F)Br | C8H8BrFN2O2
